US08138183B2
3-[2-[2-(4-Aminophenyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ylsulfonyl]propan-1-ol
Bis(triphenylphosphine)palladium(II) chloride (0.176 g, 0.25 mmol) was added to 3-[2-[2-chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ylsulfonyl]propoxy-tri(propan-2-yl)silane (2 g, 3.74 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.107 g, 5.05 mmol) and 2M sodium carbonate solution (3 mL, 6.00 mmol) in a solvent mixture of DMF (5 mL), DME (8 mL), water (2 mL) and ethanol (1.5 mL) and the resulting mixture stirred at 90° C. for 5 hours, under an inert atmosphere. The reaction mixture was diluted with ethyl acetate (200 mL), and washed with water (2×100 mL). The organic layer was dried over Na2SO4, filtered and evaporated to afford a residue which was dissolved in DCM (100 mL), and tetrabutylammonium fluoride (18.72 mL, 18.72 mmol) added. The mixture was stirred at RT for 2 hours. The reaction mixture was diluted with DCM (100 mL), and washed sequentially with a saturated aqueous solution of ammonium chloride (50 mL) and water (2×100 mL). The organic layer was dried over Na2SO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 20 to 100% ethyl acetate in isohexane then 4% methanol in ethyl acetate, to give a material which was further purified by ion exchange chromatography using an SCX column, eluting with 7N ammonia in methanol, to give the desired material as a beige solid (1.0 g).

reactant | 3-[2-[2-chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ylsulfonyl]propoxy-tri(propan-2-yl)silane | 3.74 mmol, 2 g | ClC1=NC(=CC(=N1)C(C)(C)S(=O)(=O)CCCO[Si](C(C)C)(C(C)C)C(C)C)N1[C@H](COCC1)C | C24H44ClN3O4SSi
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 5.05 mmol, 1.107 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 6.00 mmol, 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | tetrabutylammonium fluoride | 18.72 mmol, 18.72 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.25 mmol, 0.176 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
solvent | DME | 8 mL | COCCOC | C4H10O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[2-[2-(4-Aminophenyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ylsulfonyl]propan-1-ol | 1.0 g | NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(C)(C)S(=O)(=O)CCCO)N1[C@H](COCC1)C | C21H30N4O4S
